US07678917B2
In analogy to example 21C, (1SR,3RS,4SR)-3-{[(5-chloro-thiophene-2-carbonyl)-amino]-methyl}-4-hydroxy-cyclopentanecarboxylic acid methyl ester was reacted with 1-(4-amino-3-fluoro-phenyl)-1H-pyrazin-2-one (prepared from 2-fluoro-4-iodoaniline by reaction with 1H-pyrazin-2-one, Cu(I)I, N,N′-dimethylethylenediamine and cesium carbonate in dioxane at 120° C.) to give 5-chloro-thiophene-2-carboxylic acid {(1RS,2SR,4SR)-4-[2-fluoro-4-(2-oxo-2H-pyrazin-1-yl)-phenylcarbamoyl]-2-hydroxy-cyclopentylmethyl}-amide. Orange solid. MS: 491.3. ([M+H]+).

reactant | (1SR,3RS,4SR)-3-{[(5-chloro-thiophene-2-carbonyl)-amino]-methyl}-4-hydroxy-cyclopentanecarboxylic acid methyl ester | COC(=O)C1CC(C(C1)O)CNC(=O)C=1SC(=CC1)Cl | C13H16ClNO4S
reactant | 1-(4-amino-3-fluoro-phenyl)-1H-pyrazin-2-one | NC1=C(C=C(C=C1)N1C(C=NC=C1)=O)F | C10H8FN3O
product | 5-chloro-thiophene-2-carboxylic acid {(1RS,2SR,4SR)-4-[2-fluoro-4-(2-oxo-2H-pyrazin-1-yl)-phenylcarbamoyl]-2-hydroxy-cyclopentylmethyl}-amide | FC1=C(C=CC(=C1)N1C(C=NC=C1)=O)NC(=O)C1CC(C(C1)CNC(=O)C=1SC(=CC1)Cl)O | C22H20ClFN4O4S
